*----------------------------------------------------------------------------
*
* To use a subcircuit, the name must begin with 'X'.  For example:
* X1 1 2 3 4 5 uA741
*
* connections:   non-inverting input
*                |  inverting input
*                |  |  positive power supply
*                |  |  |  negative power supply
*                |  |  |  |  output
*                |  |  |  |  |
.subckt uA741    1  2  3  4  5
*
  c1   11 12 8.661E-12
  c2    6  7 30.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 10.61E6 -10E6 10E6 10E6 -10E6
  ga    6  0 11 12 188.5E-6
  gcm   0  6 10 99 5.961E-9
  iee  10  4 dc 15.16E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 5.305E3
  rc2   3 12 5.305E3
  re1  13 10 1.836E3
  re2  14 10 1.836E3
  ree  10 99 13.19E6
  ro1   8  5 50
  ro2   7 99 100
  rp    3  4 18.16E3
  vb    9  0 dc 0
  vc    3 53 dc 1
  ve   54  4 dc 1
  vlim  7  8 dc 0
  vlp  91  0 dc 40
  vln   0 92 dc 40
.model dx D(Is=800.0E-18 Rs=1)
.model qx NPN(Is=800.0E-18 Bf=93.75)
.ends



.options savecurrents

Vcc vcc 0 5.0
Vee vee 0 -5.0
Vin in 0 0 ac 1.0 sin(0 10m 1k)

X1 non_in inv_in vcc vee amp_out uA741

C1 in non_in 220n
R1 non_in 0 10000
R8 non_in 0 10000
*R9 lpf 0 1000
*R6 lpf2 0 1000

R4 0 inv_in 1000


R3 inv_in amp_out 100000
R2 amp_out out 500
*C3 amp_out out 0.001m
*C4 amp_out out 220n
*C5 amp_out out 220n

C2 out 0 110n
*R5 mid 0 100000


* load
*RL out 0 8

.op
.end

.control

print all

* time analysis
tran 1e-5 1e-2
plot v(out)
hardcopy vo1.ps v(out)
echo vo1_FIG


* frequency analysis
ac dec 1000 10 100MEG
plot vdb(out)
plot vp(out)
hardcopy vo1f.ps vdb(out)
echo vo1f_FIG

meas ac maxfreq MAX_AT vdb(out)
meas ac maxgain MAX vdb(out)
let cutoff_db=maxgain-3

let ampopcost = 2*0.1 + (8.661+30)*10^(-6)*1 + (100+5.305*2+1.836*2+13190+0.050+0.1+18.16)*1 + 5*0.1
let cost=(1*3+10*2+100*1)*1+(0.220*3)*1 + ampopcost

meas ac lowfreq WHEN vdb(out)=cutoff_db rise=1
meas ac highfreq WHEN vdb(out)=cutoff_db fall=1
let centralfreq = sqrt(lowfreq*highfreq)

meas ac centralgain FIND vm(out) WHEN frequency=1000

let freqdev = abs(centralfreq - 1000)
let gaindev = abs(100-centralgain)
let merit = 1/(cost* (freqdev + gaindev + 10^(-6)))

*input impedance in kohm
let inputimpedance = v(in)[4000]/vin#branch[4000]/-1000
print freqdev
print gaindev
echo "op_TAB"
print centralfreq
print centralgain
print inputimpedance
print ampopcost
print cost
print merit
echo "op_END"

*need a different setup to measure output impedance

.endc 

